US07452993B2
Step 2: Synthesis of 4-[3-(2-Methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N-methyl-benzamide
To a solution of 5-bromo-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine (26 mg, 0.085 mmol) in acetonitrile (1 mL) and saturated aqueous NaHCO3 (1 mL) in a microwave vial was added 4-(N-methylaminocarbonyl)phenylboronic acid (17 mg, 0.094 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), complex with dichloromethane (1:1) (3.5 mg, 0.004 mmol). The vial was capped, flushed with N2, evacuated under vacuum, and heated in a microwave at 130° C. for 1800 seconds. The material was extracted into EtOAc and the organic layer was dried over Na2SO4. The material was adsorbed onto SiO2 and purified by flash chromatography in a EtOAc (containing 10% MeOH) and hexane gradient. The clean fractions were concentrated via rotary evaporation to afford the title compound as a white powder (5.9 mg, 20% yield). 1H NMR (500 MHz, CD3OD) δ 8.85 (s, 1H), 8.41 (s, 1H), 7.94 (d, J=8.5 Hz, 2H), 7.78 (d, J=8.5 Hz, 2H), 7.67 (d, J=7.5 Hz, 1H), 7.48 (t, 7.0 Hz, 1H), 7.21 (d, J=8.5 Hz, 1H), 7.11 (t, J=7.0 Hz, 1H), 3.89 (s, 3H), 2.95 (s, 3H). MS: m/z 359.1 [M+H+].

reactant | 5-bromo-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine | 0.085 mmol, 26 mg | BrC=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C13H10BrN3O
reactant | 4-(N-methylaminocarbonyl)phenylboronic acid | 0.094 mmol, 17 mg | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | dichloromethane | 0.004 mmol, 3.5 mg | ClCCl | CH2Cl2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-(2-Methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N-methyl-benzamide | 5.9 mg, 20% yield | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C2=CC=C(C(=O)NC)C=C2 | C21H18N4O2
